US06288096B1
3.77 g (13 mmole) 2-propanesulfonyl chloride dissolved in dichloromethane was slowly added to a solution of 3.2 g (13 mmole) 4-[2-(4-hydroxyphenyl)ethoxy]benzaldehyde and 2.63 g (26 mmole) triethylamine in 80 ml dichloromethane at 0° C. The temperature was slowly allowed to rise to room temperature and when the starting material was consumed the reaction mixture was poured on to ice. The phases were separated and the organic phase was washed with sodium carbonate, dried (sodium sulfate), filtered and evaporated. The residue was purified by chromatography on silica gel using dichloromethane as eluent to give 3.3 g (yield 72.8%) of 4-[2-(4-formylphenoxy)ethyl]phenyl 2-propanesulfonate.

reactant | 2-propanesulfonyl chloride | 13 mmole, 3.77 g | CC(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | 4-[2-(4-hydroxyphenyl)ethoxy]benzaldehyde | 13 mmole, 3.2 g | OC1=CC=C(C=C1)CCOC1=CC=C(C=O)C=C1 | C15H14O3
reactant | triethylamine | 26 mmole, 2.63 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 4-[2-(4-formylphenoxy)ethyl]phenyl 2-propanesulfonate | 3.3 g, yield 72.8% | CC(C)S(=O)(=O)OC1=CC=C(C=C1)CCOC1=CC=C(C=C1)C=O | C18H20O5S
